US06313122B1
Preparation of N-(4-Methoxyphenyl)-2-[(1,5-dioxo-5-morpholinopentyl)amino]benzamide
Using the procedure described in Example 161, 5-oxo-5-morpholinopentanoic acid (166 mg, 0.826 mmol) and 2-amino-N-(4-methoxyphenyl)benzamide yielded, after recrystallization from ethyl acetate/hexanes, 220 mg (63%) of the title compound as a white amorphous solid.

reactant | 5-oxo-5-morpholinopentanoic acid | 0.826 mmol, 166 mg | O=C(CCCC(=O)O)N1CCOCC1 | C9H15NO4
reactant | 2-amino-N-(4-methoxyphenyl)benzamide | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC=C1 | C14H14N2O2
product | N-(4-Methoxyphenyl)-2-[(1,5-dioxo-5-morpholinopentyl)amino]benzamide | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1)NC(CCCC(N1CCOCC1)=O)=O)=O | C23H27N3O5
